US06872833B2
A stirred suspension of 150 mg (0.33 mmol) (±)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide, 217 mg (0.67 mmol) cesium carbonate and a few crystals of 2,6-di-tert-butyl-p-cresol in 2.90 ml (3.33 mmol) morpholine in a thick-walled glass pressure tube fitted with a teflon cap was heated at 140° C. for 24 h. The reaction mixture was then cooled to room temperature and poured onto water. The mixture was extracted three times with ethyl acetate, and the combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate) followed by trituration in ether afforded 65 mg (43%) (±)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-morpholin-4-yl-isonicotinamide as a light yellow solid. ES-MS m/e (%): 457 (M+H+, 100).

reactant | (±)-2-bromo-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-isonicotinamide | 0.33 mmol, 150 mg | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3C3OCCOC3)OC)C=CN1 | C18H16BrN3O4S
reactant | cesium carbonate | 0.67 mmol, 217 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,6-di-tert-butyl-p-cresol | C(C)(C)(C)C1=CC(=CC(=C1O)C(C)(C)C)C | C15H24O
reactant | morpholine | 3.33 mmol, 2.90 ml | N1CCOCC1 | C4H9NO
product | (±)-N-(7-[1,4]dioxan-2-yl-4-methoxy-benzothiazol-2-yl)-2-morpholin-4-yl-isonicotinamide | 65 mg, 43% | O1C(COCC1)C1=CC=C(C=2N=C(SC21)NC(C2=CC(=NC=C2)N2CCOCC2)=O)OC | C22H24N4O5S
